US04062829
Ethyl 2-(2-hydroxyethoxy) oxydiethylene alpha-diethylphosphonosuccinate
The procedure according to Example 1 was repeated using similar apparatus and under essentially similar conditions allowing for the differences in quantities of materials employed. In this example, for the materials of the previous Example 1, 4.0 mols of fumaric acid, 4.0 mols of triethyleneglycol, 4.0 mols of triethylphosphite and 0.5% of hypophosphorous acid were employed. The product of the reaction had an acid value of about 5, a hydroxyl value of about 34, triethylphosphite less than 0.1% and a phosphorus content of about 7.3%.

reactant | fumaric acid | 4.0 mols | C(\C=C\C(=O)O)(=O)O | C4H4O4
reactant | triethyleneglycol | 4.0 mols | C(COCCOCCO)O | C6H14O4
reactant | triethylphosphite | 4.0 mols | C(C)OP(OCC)OCC | C6H15O3P
reactant | hypophosphorous acid | [PH2](=O)O | H3O2P
reactant | phosphorus | [P] | P
product | Ethyl 2-(2-hydroxyethoxy) oxydiethylene alpha-diethylphosphonosuccinate | C(C)OP(=O)(OCC)C(C(=O)O)CC(=O)O.C(C)C(=C)OC=COCCO | InChI=1S/C8H15O7P.C8H14O3/c1-3-14-16(13,15-4-2)6(8(11)12)5-7(9)10;1-3-8(2)11-7-6-10-5-4-9/h6H,3-5H2,1-2H3,(H,9,10)(H,11,12);6-7,9H,2-5H2,1H3
